US07595398B2
2-[4-(4-carboxy-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester
Z-ProOH (0.56 g, 2.2 mmol) and HATU (2.2 mmol, 0.83 g) were combined in 35 mL of DMF. To this solution was added DIEA (2.4 mmol, 0.42 mL). This solution was stirred at room temperature for 1 hr. 4-(2-Amino-thiazol-4-yl)-benzoic acid (2.2 mmol, 0.5 g) was then added to the solution. The reaction mixture was stirred at 70° C. overnight. It was brought to room temperature and then evaporated to dryness. The crude was purified using reverse phase HPLC. MS: 452.1 (M+H+)

reactant | Z-ProOH | 2.2 mmol, 0.56 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | HATU | 2.2 mmol, 0.83 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 2.4 mmol, 0.42 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2-Amino-thiazol-4-yl)-benzoic acid | 2.2 mmol, 0.5 g | NC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2S
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 2-[4-(4-carboxy-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(=O)O)=O | C23H21N3O5S
